US06743785B2
6-(4-fluorophenyl)indole
A degassed solution of 6-bromoindole (1.0 g, 5.1 mmol), 4-fluorobenzeneboronic acid (0.928 g, 6.63 mmol), potassium phosphate (2.7 g, 153 mmol) and palladium(0)tetrakis-(triphenylphosphine) (0.294 g, 0.255 mmol) in dimethylacetamide (50 mL) was heated at 120° C. for 14 hours. After cooling to room temperature, the mixture was diluted with water. The suspension was filtered, the solid washed with water and then dissolved in ethyl acetate (100 mL), dried over sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel chromatography, eluting with ethyl acetate:hexane (1:4) to give 0.411 g (38.2%) of the title compound as a white crystalline solid.

reactant | 6-bromoindole | 5.1 mmol, 1.0 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | 4-fluorobenzeneboronic acid | 6.63 mmol, 0.928 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium phosphate | 153 mmol, 2.7 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dimethylacetamide | 50 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 6-(4-fluorophenyl)indole | 0.411 g, 38.2% | FC1=CC=C(C=C1)C1=CC=C2C=CNC2=C1 | C14H10FN
